US05610303
(E)-4-{3-[1-(3-fluorobenzyl)piperidin-4-yl]propenoyl}nitrobenzene
1.11 g of 3-fluorobenzylbromide and 2.53 g of potassium carbonate were added to 3.0 g of (E)-4-[3-(piperidin-4-yl)propenoyl]nitrobenzene dissolved in 30 ml of dimethylformamide at room temperature, and the mixture was stirred for 2 hours. After completion of the reaction, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The obtained residue was applied to silica gel column chromatography to obtain 1.06 g of the title compound as pale yellow crystal.

reactant | 3-fluorobenzylbromide | 1.11 g | FC=1C=C(CBr)C=CC1 | C7H6BrF
reactant | potassium carbonate | 2.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | (E)-4-[3-(piperidin-4-yl)propenoyl]nitrobenzene | 3.0 g | N1CCC(CC1)/C=C/C(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C14H16N2O3
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (E)-4-{3-[1-(3-fluorobenzyl)piperidin-4-yl]propenoyl}nitrobenzene | 1.06 g | FC=1C=C(CN2CCC(CC2)/C=C/C(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=CC1 | C21H21FN2O3
